US04143068
In the manner described above, 170 g (1 mol) of p-methoxybenzoyl chloride and 64.5 g (0.99 mol) of potassium cyanide and 1.17 g (0.1 mol) of zinc cyanide were mixed, whilst stirring, and the mixture was heated to 210° C. for 1 hour. A distillation bridge was then connected and the reaction product was separated from the residue direct. On subsequent fractionation, 138 g (86% of theory) of p-methoxybenzoyl cyanide with a melting point of 63° C. were obtained.

reactant | p-methoxybenzoyl chloride | 1 mol, 170 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | potassium cyanide | 0.99 mol, 64.5 g | [C-]#N.[K+]
catalyst | zinc cyanide | 0.1 mol, 1.17 g | [C-]#N.[Zn+2].[C-]#N
product | p-methoxybenzoyl cyanide | 138 g, 86% | COC1=CC=C(C(=O)C#N)C=C1 | C9H7NO2
